US05142056
A. N-((3-Pyridinyl)carbonyl)-valine Benzyl Ester
A solution of 2.44 g (6.44 mmol) of L-valine benzyl ester p-toluenesulfonate in 100 ml of dichloromethane was cooled under N2 atmosphere to 0° C. and treated sequentially with 1.15 g (6.44 mmol) of nicotinyl chloride hydrochloride and 2.8 ml (26 mmol) of 4 -methylmorpholine. After being stirred at ambient temperature overnight, the resulting solution was diluted with 200 ml of diethyl ether, washed sequentially with water, aqueous NaHCO3, and saturated brine, dried over Na2SO4, and concentrated in vacuo to give 2.09 g (95%) of the desired compound. 1H NMR (CDCl3) δ 0.96 (d, J=7 Hz, 3H), 1.01 (d, J=7 Hz, 3H), 2.30 (m, 1H), 4.83 (dd, J=9, 5 Hz, 1H), 5.20 (AA', 2H), 6.67 (br d, 1H), 7.37 (br s, 6H), 8.11 (dd, J=8, 2 Hz, 1H), 8.74 (br, 1H), 9.01 (s, 1H).

reactant | L-valine benzyl ester p-toluenesulfonate | 6.44 mmol, 2.44 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)C(C)C)=O
reactant | nicotinyl chloride hydrochloride | 6.44 mmol, 1.15 g | Cl.C(C1=CN=CC=C1)Cl
reactant | 4 -methylmorpholine | 26 mmol, 2.8 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | N-((3-Pyridinyl)carbonyl)-valine Benzyl Ester | 2.09 g, 95% | C(C1=CC=CC=C1)OC([C@@H](NC(=O)C=1C=NC=CC1)C(C)C)=O | C18H20N2O3
